US05137886
(iv) 2-(pyrrole-1-sulphonyl)-6-(methanesulphonyloxy)pyridine (Compound No. 4)
To a stirred solution of 2-(pyrrole-1-sulphonyl)pyrid-6-one (0.22 g) in dichloromethane (20 cm3) under nitrogen at 0° C. was added in solution of mesyl chloride (0.124 g) in dichloromethane (5 cm3) and triethylamine (0.109 g).

reactant | 2-(pyrrole-1-sulphonyl)pyrid-6-one | 0.22 g | N1(C=CC=C1)S(=O)(=O)C=1NC(C=CC1)=O | C9H8N2O3S
reactant | mesyl chloride | 0.124 g | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | dichloromethane | 20 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 5 cm3 | ClCCl | CH2Cl2
solvent | triethylamine | 0.109 g | C(C)N(CC)CC | C6H15N
product | 2-(pyrrole-1-sulphonyl)-6-(methanesulphonyloxy)pyridine | N1(C=CC=C1)S(=O)(=O)C1=NC(=CC=C1)OS(=O)(=O)C | C10H10N2O5S2
